US05059611
3-(10-Hydroxydecyl)-5-trimethylsilylfuran is oxidized by Jones reagent (chromic acid) to give 3-(10-carboxydecyl)-5-trimethylsilylfuran. A mixture of this compound and Rose Bengal in tetrahydrofuran is exposed to singlet oxygen at -78° to give 4-(10-carboxydecyl)-5-hydroxy-2(5H)-furanone.

reactant | 3-(10-Hydroxydecyl)-5-trimethylsilylfuran | OCCCCCCCCCCC1=COC(=C1)[Si](C)(C)C | C17H32O2Si
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
product | 3-(10-carboxydecyl)-5-trimethylsilylfuran | C(=O)(O)CCCCCCCCCCC1=COC(=C1)[Si](C)(C)C | C18H32O3Si
